US04180620
A solution of magnesium neo decanoate was prepared by adding 1.07 lbs. of magnesium hydroxide and 5.23 lbs. of neo decanoate acid to 380 lbs. of water in a stainless steel drum fitted with an agitator and a metal coil for heating and cooling. The mixture was heated to 95° C. for three hours with good agitation then cooled to 25° C. Water was added to make up for that lost by evaporation, and 0.1 lb. (0.025%) of Triton X-305 was added. The mixture was filtered through fluted filter paper. The solution contained 780 ppm magnesium or 1.18% by weight of magnesium neo decanoate.

reactant | magnesium hydroxide | [OH-].[Mg+2].[OH-]
reactant | neo decanoate | C(CCCCCC(C)(C)C)(=O)[O-]
solvent | Water | O | H2O
product | magnesium neo decanoate | C(CCCCCC(C)(C)C)(=O)[O-].[Mg+2].C(CCCCCC(C)(C)C)(=O)[O-] | InChI=1S/2C10H20O2.Mg/c2*1-10(2,3)8-6-4-5-7-9(11)12;/h2*4-8H2,1-3H3,(H,11,12);/q;;+2/p-2
